US05202319
N-[2,3,4,5-Tetrahydro-1-(4-trifluoromethylphenoxy)-1H-3-benzazepin-3-yl]trifluoroacetamide
Methyl trifluoracetate (4.2 g) was added to a solution of 3-amino-2,3,4,5-tetrahydro-1-(4trifluoromethylphenoxy)-1H-3-benzazepine (8.4 g) in 100 mL anhydrous methanol and triethylamine (3.3 g). The solution was allowed to stand overnight at ambient temperature and thereafter concentrated. The residue was triturated with ether and the resultant product was collected and dried to yield 8.5 g white solid, mp 192°-195°.

reactant | Methyl trifluoracetate | 4.2 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | 3-amino-2,3,4,5-tetrahydro-1-(4trifluoromethylphenoxy)-1H-3-benzazepine | 8.4 g | NN1CCC2=C(C(C1)OC1=CC=C(C=C1)C(F)(F)F)C=CC=C2 | C17H17F3N2O
solvent | methanol | 100 mL | CO | CH4O
solvent | triethylamine | 3.3 g | C(C)N(CC)CC | C6H15N
product | N-[2,3,4,5-Tetrahydro-1-(4-trifluoromethylphenoxy)-1H-3-benzazepin-3-yl]trifluoroacetamide | 8.5 g | FC(C1=CC=C(OC2CN(CCC3=C2C=CC=C3)NC(C(F)(F)F)=O)C=C1)(F)F | C19H16F6N2O2
